US04959373
3-(4-acetaminobenzoyl)-7-benzyl-3,7-diazabicyclo[3.3.1]nonane
80.2 g (0.24 mole) of 3-(4-aminobenzoyl)-7-benzyl-3,7-diazabicyclo[3.3.1]nonane (cf. European Pat. No. 62,199) were dissolved in 500 ml anhydrous tetrahydrofuran and cooled with ice. 23.5 g (0.3 mole) of acetyl chloride, dissolved in 50 ml of tetrahydrofuran, were added dropwise, followed by 48.6 g (0.48 mole) of triethylamine at room temperature. The entire mixture was stirred overnight and then evaporated down under reduced pressure. The residue was taken up in water and the solution was extracted 3 times with methylene chloride. The combined organic phases were washed with water, dried and evaporated down under reduced pressure. Yield: 78.1 g, mp.: 208° C.

reactant | 3-(4-aminobenzoyl)-7-benzyl-3,7-diazabicyclo[3.3.1]nonane | 0.24 mole, 80.2 g | NC1=CC=C(C(=O)N2CC3CN(CC(C2)C3)CC3=CC=CC=C3)C=C1 | C21H25N3O
reactant | acetyl chloride | 0.3 mole, 23.5 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.48 mole, 48.6 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(4-acetaminobenzoyl)-7-benzyl-3,7-diazabicyclo[3.3.1]nonane | N(C(=O)C)C1=CC=C(C(=O)N2CC3CN(CC(C2)C3)CC3=CC=CC=C3)C=C1 | C23H27N3O2
